US06635639B2
6-Iodo-1H-indazole
Sodium nitrite (5.87 g, 85 mmol) in water (20 mL) was added dropwise to an ice-cooled solution of 6-aminoindazole (10 g, 75.6 mmol) in DMF (80 mL) and hydrochloric acid (6M, 40 mL) and the mixture was stirred for 30 minutes. Potassium iodide (13.5 g) was then added in small portions (gas evolution occurred) and the mixture was stirred for 1 h before warming to room temperature for 16 h. The reaction was neutralized with aqueous sodium bisulfite followed by aqueous sodium hydroxide. The mixture was filtered to remove solid, and the solid was washed first with water to remove impurities, and then with ethyl acetate and THF to collect the product. The organic washes were evaporated and recombined with the aqueous layer for extraction with ethyl acetate (3×250 mL). The organic layer was washed sequentially with water and brine, dried over sodium sulfate, and the solvent was removed in vacuo. Filtration chromatography on silica gel (35-60% ethyl acetate in hexane) yield a yellow solid, which was then triturated with 50% ethyl acetate in hexane and finally ethyl acetate to yield the product (4.96 g).

reactant | Sodium nitrite | 85 mmol, 5.87 g | N(=O)[O-].[Na+]
reactant | 6-aminoindazole | 75.6 mmol, 10 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | Potassium iodide | 13.5 g | [I-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | hydrochloric acid | 6M, 40 mL | Cl | ClH
product | 6-Iodo-1H-indazole | 4.96 g | IC1=CC=C2C=NNC2=C1 | C7H5IN2
